US08198269B2
(5) Synthesis of tert-butyl [(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-fluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate
[Bis(2-methoxyethyl)amino]sulfur trifluoride (155 μl) was added dropwise to a solution of tert-butyl [(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate (200 mg) in dichloromethane (5.0 ml) at −78° C. The mixture was stirred overnight with gradual heating to room temperature. A sodium bicarbonate solution was added to the reaction mixture to terminate the reaction. The aqueous layer was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (145 mg).

reactant | [Bis(2-methoxyethyl)amino]sulfur trifluoride | 155 μl | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | tert-butyl [(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 200 mg | BrC=1C=CC(=C(C1)[C@@]12CO[C@H](C[C@H]2CSC(=N1)NC(OC(C)(C)C)=O)CO)F | C19H24BrFN2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | tert-butyl [(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-fluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 145 mg | BrC=1C=CC(=C(C1)[C@@]12CO[C@H](C[C@H]2CSC(=N1)NC(OC(C)(C)C)=O)CF)F | C19H23BrF2N2O3S
